US07064215B2
Synthesis of 3-{6-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]-1H-benzimidazol-2-yl}-1H-indazole
1H-Indazol-3-yl-N-[5-((6S,2R)-2,6-dimethyl-morpholin-4-yl)-2-aminophenyl]carboxamide (1.0 equivalent) was dissolved in acetic acid, and sodium acetate (1.1 equivalents) was added. The solution was heated at reflux for 1 hour and then cooled. The acetic acid was removed, and the residue was triturated with ethyl acetate and filtered. The filtrate was concentrated to provide a green foam which was purified by reverse phase HPLC. LC/MS (m/z) 348.1 (MH+), Rt 2.23 minutes.

reactant | 1H-Indazol-3-yl-N-[5-((6S,2R)-2,6-dimethyl-morpholin-4-yl)-2-aminophenyl]carboxamide | 1.0 equivalent | N1N=C(C2=CC=CC=C12)C(=O)NC1=C(C=CC(=C1)N1C[C@H](O[C@H](C1)C)C)N | C20H23N5O2
reactant | sodium acetate | 1.1 equivalents | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-{6-[(2R,6S)-2,6-Dimethylmorpholin-4-yl]-1H-benzimidazol-2-yl}-1H-indazole | C[C@@H]1CN(C[C@@H](O1)C)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=CC=C23)C1 | C20H21N5O
